US07820699B2
9.3 To a stirred suspension of 300 mg {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid (containing 2 mol equivalents of sodium chloride) at r.t. in 5 ml acetonitrile and 0.5 ml DMF under an argon atmosphere were added 0.5 ml N-ethyldiisopropylamine, 175 mg 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one (CAS 536747-52-1, prepared according to WO 2003045912) and 365 mg BOP-Cl. The compact slurry was then stirred at r.t. for 18 h. The mixture was concentrated. The residue was taken up with CH2Cl2, washed with 1 N NaOH, H2O and brine, dried (MgSO4), filtered and concentrated. The crude product was purified by chromatography (silica gel; gradient: cyclohexane to EtOAc) to give 98 mg 5-chloro-thiophene-2-carboxylic acid (1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-piperidin-3-yl)-amide. White solid. MS 489.5 ([M+H]+)

reactant | {3-[(5-chloro-thiophene-2-carbonyl)-amino]-piperidin-1-yl}-acetic acid | 2 mol, 300 mg | ClC1=CC=C(S1)C(=O)NC1CN(CCC1)CC(=O)O | C12H15ClN2O3S
reactant | N-ethyldiisopropylamine | 0.5 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 1-(4-amino-3-fluoro-phenyl)-1H-pyridin-2-one | 175 mg | NC1=C(C=C(C=C1)N1C(C=CC=C1)=O)F | C11H9FN2O
reactant | BOP-Cl | 365 mg | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
solvent | acetonitrile | 5 ml | C(C)#N | C2H3N
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | 5-chloro-thiophene-2-carboxylic acid (1-{[2-fluoro-4-(2-oxo-2H-pyridin-1-yl)-phenylcarbamoyl]-methyl}-piperidin-3-yl)-amide | 98 mg | FC1=C(C=CC(=C1)N1C(C=CC=C1)=O)NC(=O)CN1CC(CCC1)NC(=O)C=1SC(=CC1)Cl | C23H22ClFN4O3S
